US05264415
Ethyl 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoate
To a 250 mL 3 neck flask stirring under N2 was charged 1.0 g of 60% sodium hydroxide (prewashed with hexanes) in 50 mL of dimethyl formamide (DMF). To the slurry was charged 6.14 g (0.020 mole) of 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoic acid in 50 mL of dimethyl formamide. The mixture was stirred at room temperature and 3.74 g (0.024 mole) of ethyl iodide was added. The reaction was monitored by thin layer chromatography (TLC) in a one to 19 mixture of methanol and ethyl acetate. Upon completion the reaction was quenched with water extracted with ether, and washed with saturated sodium bicarbonate. After drying and removal of the solvent, 5.9 g (88% yield) of a thick oil remained, Example 18 of Table 1.

reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoic acid | 0.020 mole, 6.14 g | ClC1=CC=C(C=C1)C(C(=O)O)(CCCC)CN1N=CN=C1 | C15H18ClN3O2
reactant | ethyl iodide | 0.024 mole, 3.74 g | C(C)I | C2H5I
reactant | methanol | CO | CH4O
solvent | dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(4-chlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoate | 5.9 g, 88% yield | ClC1=CC=C(C=C1)C(C(=O)OCC)(CCCC)CN1N=CN=C1 | C17H22ClN3O2
